US05134142
A mixture of 1-(4-hydroxyphenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxamide (1.3 g) and methanesulfonyl chloride (2.5 g) in pyridine (20 ml) was stirred at 50° C. for 5 hours. The solvent was evaporated, and dilute hydrochloric acid and ethyl acetate was added to the residue. The organic layer was washed with water, dried and concentrated. The residue was purified by column chromatography on silica gel (20 g) eluting with a mixture of chloroform and methanol (20:1) to give crystals of 5-[4-(methylsulfonyl)phenyl]-1-[4-(methylsulfonyloxy)-phenyl]pyrazole-3-carbonitrile (0.79 g).

reactant | 1-(4-hydroxyphenyl)-5-[4-(methylsulfonyl)phenyl]pyrazole-3-carboxamide | 1.3 g | OC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(=O)N | C17H15N3O4S
reactant | methanesulfonyl chloride | 2.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 5-[4-(methylsulfonyl)phenyl]-1-[4-(methylsulfonyloxy)-phenyl]pyrazole-3-carbonitrile | 0.79 g | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OS(=O)(=O)C)C#N | C18H15N3O5S2
